US07351709B2
To a solution of ethyl 4-{[(2S)-2-ethyl-7-fluoro-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]sulfonyl}phenyl carbonate (0.35 g, 0.83 mmol) in acetone (5 mL) was added cesium carbonate (0.3 g, 0.91 mmol), and 1-iodopropane (0.32 ml, 3.32 mmol). The mixture was heated at 62° C. for 2.5 hours, cooled to 25° C., and treated with a 2N aqueous solution of sodium hydroxide (3 mL). The reaction was then stirred at 25° C. for 2 hours, and was acidified to pH<2 with the addition of a 2N aqueous solution of hydrochloric acid. The resulting mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium chloride. The organic layer was separated, dried over magnesium sulfate, and concentrated. The product was purified via flash column chromatography (SiO2, 30% ethyl acetate:hexane eluted to 60% ethyl acetate:hexane) to afford 0.1 g (3S)-3-ethyl-6-fluoro-4-[(4-hydroxyphenyl)sulfonyl]-1-propyl-3,4-dihydroquinoxalin-2(1H)-one as a white solid. MS (ESI) m/z 393 ([M+H]+); MS (ESI) m/z 391 ([M−H]−); Anal. Calcd for C19H21FN2O4S: C, 58.15; H, 5.39; N, 7.14. Found: C, 57.95; H, 5.46; N, 6.66.

reactant | ethyl 4-{[(2S)-2-ethyl-7-fluoro-3-oxo-3,4-dihydroquinoxalin-1(2H)-yl]sulfonyl}phenyl carbonate | 0.83 mmol, 0.35 g | C(OCC)(OC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(NC2=CC=C(C=C12)F)=O)CC)=O | C19H19FN2O6S
reactant | cesium carbonate | 0.91 mmol, 0.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodopropane | 3.32 mmol, 0.32 ml | ICCC | C3H7I
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | (3S)-3-ethyl-6-fluoro-4-[(4-hydroxyphenyl)sulfonyl]-1-propyl-3,4-dihydroquinoxalin-2(1H)-one | 0.1 g | C(C)[C@H]1C(N(C2=CC=C(C=C2N1S(=O)(=O)C1=CC=C(C=C1)O)F)CCC)=O | C19H21FN2O4S
